* ECC83/12AX7 common-cathode stage matching core/src/circuit/triode.rs.
* Run with: ngspice -b common_cathode_12ax7.cir

.param BRAW=280

VRAW raw 0 DC {BRAW}
RSUP raw bplus 10k
CSUP bplus 0 22u IC={BRAW}

VIN in 0 SIN(0 20m 1k)
CIN in grid 22n
RGRID grid 0 1Meg

RPLATE bplus plate 100k
RK cath 0 1.5k
CK cath 0 25u
XTRIODE plate grid cath 12AX7_KOREN

.save v(in) v(grid) v(plate) v(cath) v(bplus) i(VRAW)

.control
set filetype=ascii
op
print v(plate) v(cath) v(bplus)
tran 1u 100m 0 1u
wrdata /tmp/boutique59_common_cathode_12ax7.dat v(in) v(grid) v(plate) v(cath) v(bplus)
quit
.endc

* Koren-style triode approximation. This is a validation fixture, not a source
* of truth for production code; refine the parameters against measured curves.
.subckt 12AX7_KOREN P G K
.param MU=100 EX=1.4 KG1=1060 KP=600 KVB=300
E1 n1 0 VALUE={ln(1 + exp(KP * (1 / MU + V(G,K) / max(V(P,K), 1)))) / KP}
G1 P K VALUE={(V(P,K) / KG1) * pow(max(V(n1), 0), EX) * sqrt(max(V(P,K), 0) / KVB)}
Cpk P K 1.7p
Cgp G P 1.6p
Cgk G K 1.6p
.ends 12AX7_KOREN

.end
